US05556863
Preparation of 3-propanoyl-4-(2-methylphenylamino)-8-(2-propylthioethoxy)quinoline
3-Propanoyl-4-chloro-8-(2-propylthioethoxy)quinoline (2.5 g, 7.40 mmol) and o-toluidine (0.95 g, 8.86 mmol) was refluxed in acetonitrile (10 ml) for 2 h. The solvent was evaporated and the residue was partitioned between methylene chloride and 10% Na2CO3 solution. The organic layer was dried over Na2SO4 and evaporated. The crude product was purified by column chromatography (methylene chloride: ethyl acetate 80:20). 1.8 g (60%) of the title compound was obtained.

reactant | 3-Propanoyl-4-chloro-8-(2-propylthioethoxy)quinoline | 7.40 mmol, 2.5 g | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OCCSCCC | C17H20ClNO2S
reactant | o-toluidine | 8.86 mmol, 0.95 g | NC=1C(=CC=CC1)C | C7H9N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-propanoyl-4-(2-methylphenylamino)-8-(2-propylthioethoxy)quinoline | 1.8 g, 60% | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCSCCC | C24H28N2O2S
